US07666888B2
(1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}piperidin-4-yl)(diphenyl)methanol
To 5-(4-methylphenyl)isoxazole-4-carbonyl chloride (10 mg, 0.045 mmol) in dichloromethane (1 mL) was added diphenyl(piperidin-4-yl)methanol (13.3 mg, 0.074 mmol, 1.1 eq.), and the reaction mixture was stirred for 1 h. The solvent was removed, and the residue was purified by preparative reverse-phase HPLC to give the title compound. HRMS (ESI, pos. ion) m/z calcd for C29H28N2O3: 452.2100, found 452.2107.

reactant | 5-(4-methylphenyl)isoxazole-4-carbonyl chloride | 0.045 mmol, 10 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)Cl | C11H8ClNO2
reactant | diphenyl(piperidin-4-yl)methanol | 0.074 mmol, 13.3 mg, 1.1 eq. | C1(=CC=CC=C1)C(O)(C1CCNCC1)C1=CC=CC=C1 | C18H21NO
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | (1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}piperidin-4-yl)(diphenyl)methanol | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CCC(CC1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H28N2O3
